US06716837B1
6-[4-Hydroxy-1-methyl-piperidin-4-yl]-1-isopropyl-indole (compound 35)
1.5 ml of a solution of 6-bromo-1-isoproylindole (240 mg, 1 mmol) was cooled to −78 ° C., 1.7M tBuLi (1.47 ml, 2.5 mmol) was added and the mixture stirred for 7 mins. N-Methyl-4-piperidone (340.8 mg, 3 mmol) was then added and the mixture stirred for a further 10 mins. The reaction mixture was then warmed up to −20° C. and quenched with water and dichloromethane. The organic layer was washed with water, dried over anhydrous Na2SO4, concentrated in vacuo and the residue purified by column chromatography on silica gel, eluting with 2% 2M ammonia/methanol in dichloromethane to give the title product (120 mg, 44%).

reactant | 6-bromo-1-isoproylindole | 1 mmol, 240 mg | BrC1=CC=C2C=CN(C2=C1)C(C)C | C11H12BrN
reactant | tBuLi | 2.5 mmol, 1.7M, 1.47 ml | [Li]C(C)(C)C
reactant | N-Methyl-4-piperidone | 3 mmol, 340.8 mg | CN1CCC(CC1)=O | C6H11NO
product | 6-[4-Hydroxy-1-methyl-piperidin-4-yl]-1-isopropyl-indole | 120 mg, 44% | OC1(CCN(CC1)C)C1=CC=C2C=CN(C2=C1)C(C)C | C17H24N2O
